US05883106
F. Methyl 2,5-difluoro-3-methoxyphenylacetate
To a stirred solution of 2,5-difluoro-3-methoxyphenylacetonitrile (5.92 g, 30 mmol) in ethylene glycol (150 ml) was added potassium hydroxide (85%; 3.0 g, 45 mmol). The mixture was heated at 120° C. for 1 hr and then the mixture was poured into water (100 ml) and washed with ether (100 ml). The aqueous layer was acidified with 6N HCl (10 ml) and extracted with ether (200 ml). The extract was washed with water (50 ml), brine (50 ml), dried (magnesium sulfate) and evaporated. The residual solid was dissolved in methanol (200 ml) and to the solution was added conc. sulfuric acid (2 ml). The resulting mixture was heated at reflux for 1 hr, cooled and concentrated in vacuo. The residue was dissolved in ether (100 ml), washed with water (100 ml), saturated aqueous sodium hydrogen carbonate (100 ml), brine (100 ml) and dried over magnesium sulfate. Removal of solvent gave 3.80 g (59%) of the titled compound as a yellow oil.

reactant | 2,5-difluoro-3-methoxyphenylacetonitrile | 30 mmol, 5.92 g | FC1=C(C=C(C=C1OC)F)CC#N | C9H7F2NO
reactant | potassium hydroxide | 45 mmol, 3.0 g | [OH-].[K+]
reactant | water | 100 ml | O | H2O
reactant | ethylene glycol | 150 ml | C(CO)O | C2H6O2
product | Methyl 2,5-difluoro-3-methoxyphenylacetate | 3.80 g, 59% | FC1=C(C=C(C=C1OC)F)CC(=O)OC | C10H10F2O3
